US06939928B1
(2) Synthesis of (1,1-dimethylpropyl)cyclopentadiene
To a solution of 8.00 g (66.6 mmol) of 6-methyl-6-ethylfulvene in 40 ml of ether, 66.0 ml (75.2 mmol) of an ether solution of methyllithium was dropwise added in an nitrogen atmosphere with ice cooling, followed by stirring at room temperature for one night. Then, 30 ml of water was added. The separated organic phase was washed with water and a saturated saline solution, then dried over magnesium sulfate and filtered. From the filtrate, the solvent was removed under reduced pressure to obtain a liquid. The liquid was subjected to vacuum distillation (165° C./270 mmHg) to obtain 8.40 g (61.66 mmol) of a light yellow liquid (yield: 93%). The analyzed values are given below.

reactant | 6-methyl-6-ethylfulvene | 66.6 mmol, 8.00 g | CC(=C1C=CC=C1)CC | C9H12
reactant | methyllithium | C[Li]
reactant | water | 30 ml | O | H2O
solvent | ether | 40 ml | CCOCC | C4H10O
solvent | ether | 75.2 mmol, 66.0 ml | CCOCC | C4H10O
product | (1,1-dimethylpropyl)cyclopentadiene | 61.66 mmol, 8.40 g, yield: 93% | CC(CC)(C)C1=CC=CC1 | C10H16
